US08058276B2
Step 7.3: 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide
Prepared as described in step 6.3 from 401 mg (2.45 mMol) 2-amino-4,6-dichloropyrimidine, 785 mg (1.74 mMol) 6-hydroxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide and 1.5 g (7.1 mMol) K3PO4 in 45 ml NMP: MS: [M+1]+=578/580; HPLC: tRet=14.9.

reactant | 2-amino-4,6-dichloropyrimidine | 2.45 mMol, 401 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 6-hydroxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide | 1.74 mMol, 785 mg | CN1CCN(CC1)CC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)O)C(F)(F)F | C21H21F3N4O2S
reactant | K3PO4 | 7.1 mMol, 1.5 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | NMP | 45 ml | CN1CCCC1=O | C5H9NO
product | 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide | CN1CCN(CC1)CC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)OC2=NC(=NC(=C2)Cl)N)C(F)(F)F | C25H23ClF3N7O2S
